US09145380B2
a) 2-[2-(4-Bromo-phenyl)-ethanesulfonylamino]-5-hydroxymethyl-benzenesulfonamide (3)
Lithium aluminum hydride (1 M in tetrahydrofuran, 1.9 mL, 1.9 mmol) was added dropwise to a solution of 4-[2-(4-bromo-phenyl)-ethanesulfonylamino]-3-sulfamoyl-benzoic acid (0.22 g, 0.47 mmol) in anhydrous tetrahydrofuran (20 mL) at 0° C. The reaction mixture was stirred at room temperature for 5 hours, cooled to 0° C. and quenched by addition of saturated sodium sulfate solution (20 mL). The precipitate was removed by filtration and the filtrate was extracted with ethyl acetate. The organic phase was washed with brine, dried over sodium sulfate and concentrated under reduced pressure to give 0.15 g (71% yield) of the title compound.

reactant | Lithium aluminum hydride | 1.9 mmol, 1 M, 1.9 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-[2-(4-bromo-phenyl)-ethanesulfonylamino]-3-sulfamoyl-benzoic acid | 0.47 mmol, 0.22 g | BrC1=CC=C(C=C1)CCS(=O)(=O)NC1=C(C=C(C(=O)O)C=C1)S(N)(=O)=O | C15H15BrN2O6S2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-[2-(4-Bromo-phenyl)-ethanesulfonylamino]-5-hydroxymethyl-benzenesulfonamide | 0.15 g, 71% yield | BrC1=CC=C(C=C1)CCS(=O)(=O)NC1=C(C=C(C=C1)CO)S(=O)(=O)N | C15H17BrN2O5S2
